US09302991B2
<Step-5>:(R)—N-(1-(4-(2,2-difluoroethoxy)-3-methylphenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 47% yield (520 mg, clear colorless oil) from 1-(4-(2,2-difluoroethoxy)-3-methylphenyl)ethanone (750 mg, 3.5 mmol, Step-4) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(2,2-difluoroethoxy)-3-methylphenyl)ethanone | 3.5 mmol, 750 mg | FC(COC1=C(C=C(C=C1)C(C)=O)C)F | C11H12F2O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(4-(2,2-difluoroethoxy)-3-methylphenyl)ethyl)-2-methylpropane-2-sulfinamide | 47% yield | FC(COC1=C(C=C(C=C1)C(C)N[S@](=O)C(C)(C)C)C)F | C15H23F2NO2S
